### PR TITLE
Add results about permutations

### PR DESCRIPTION
**Pull request by lczielinski**
Author: @wjbs 

Add many results to `Permutations.v`, necessary for defining `ZXPerm` in VyZX. Results about:
- injectivity/surjectivity of permutations
- permutation inverse
- well-foundedness of permutatinos
- stacking permutations
- swaps of elements
- permutations on lists
...and some automation.

### CODE REVIEW

File: coq-quantumlib.opam [hunk 1]
```diff
@@ -14,7 +14,7 @@ doc: "https://inqwire.github.io/QuantumLib/toc.html"
 bug-reports: "https://github.com/inQWIRE/QuantumLib/issues"
 depends: [
   "dune" {>= "2.8"}
-  "coq" {>= "8.16" < "8.20"}
+  "coq" {>= "8.12"}
```
Comment (lczielinski) [inline coq-quantumlib.opam:17]: Did this automatically, not really sure why

File: VectorStates.v [hunk 2]
```diff
@@ -955,6 +966,188 @@ Proof.
 Qed.
 Local Transparent Nat.mul.
 
+Lemma testbit_binlist {n : nat} {k : list bool} :
```
Comment (adrianleh) [inline VectorStates.v:969]: It looks like you're adding a lot of bit manipulation and funbool handling. At this point it seems to me we might want to split it out of VectorStates into a separate file.

File: Permutations.v [hunk 3]
```diff
@@ -4,11 +4,15 @@ Require Import VectorStates.
 
 Local Open Scope nat_scope.
 
-(** * Permutations on (0,...,n-1) *)
+Create HintDb perm_db.
+Create HintDb perm_bdd_db.
+Create HintDb perm_inv_db.
+Create HintDb WF_perm_db.
+
```
Comment (adrianleh) [inline Permutations.v:11]: Maybe we should scope this file in a new scope as there are some names that might be conflicting with other work

File: Permutations.v [hunk 4]
```diff
@@ -42,89 +57,786 @@ Proof.
...
+  exists idn.
+  easy. 
+Qed.
+
+Global Hint Resolve idn_permutation : perm_db.
+
+(** Notions of injectivity, boundedness, and surjectivity of f : nat -> nat 
+  interpreted as a function from [n]_0 to [n]_0) and their equivalences *)
+Local Notation perm_surj n f := (forall k, k < n -> exists k', k' < n /\ f k' = k).
+Local Notation perm_bdd n f := (forall k, k < n -> f k < n).
```
Comment (adrianleh) [inline Permutations.v:91]: I assume `bdd` means bounded but I don't think is very clear. I'd spell that out

File: Permutations.v [hunk 5]
```diff
@@ -42,89 +57,786 @@ Proof.
...
+  exists (fun k => if m <=? k then k else finv_m k).
+  intros k Hk.
+  bdestruct (m <=? k).
+  - rewrite HWF; bdestruct_all; auto.
+  - specialize (Hfinv_m _ H).
+    repeat split; bdestruct_all; try easy; lia.
+Qed.
+
+
+Local Notation perm_eq n f g := (forall k, k < n -> f k = g k).
```
Comment (adrianleh) [inline Permutations.v:683]: Why do we have a fixed n here? To me permutations being equal means that they are both of the same size and then have equal elements

**Review by adrianleh — CHANGES_REQUESTED** [review]
LGTM overall. Some very useful additions are in here. I left some inline comments for changes that we might want to make.

File: VectorStates.v (hunk 2 above)
Comment (adrianleh) [reply VectorStates.v:969]: I think it's fine to include here

**Comment by adrianleh** [comment]
@lczielinski We also want to bump the version in `dune-project` and `coq-quantumlib.opam` to 1.5.0

**Comment by lczielinski** [comment]
Made new files `Bits.v` (the classical bit stuff from `VectorStates.v`), `PermutationAutomation.v` (the second half of `Permutation.v`) and `Modulus.v` (a few lemmas about mod)

**Review by adrianleh — APPROVED** [review]
LGMT
